US03985731
A. 2-(chloroformyl)-cis-cinnamonitrile (I)
To a rapidly stirring suspension of phosphorus pentachloride (197.5 g) in dry hexane (3.5 liters) is added 167.0 g (0.964 mole) of 2-nitroso-1-naphthol. The mixture is stirred at room temperature for 1 hour after which it is refluxed for 1 hour, cooled slightly and decanted while hot. The residue is boiled with hexane (3.0 liters) for another hour after which the solution is decanted and combined with the first hexane extract. It is evaporated down to dryness. Yield: 200.0 g (crude). This residue is extracted with hexane (2.0 liters), the hexane decanted, cooled, and the resultant crystals are filtered off. The filtrate is used to reestract additional compound from the above residue (the reextraction being repeated four times) with cooling and filtering of the crystals obtained each time. Yield: 79.0 g (42.5%), mp=72°-74°.

reactant | phosphorus pentachloride | 197.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-nitroso-1-naphthol | 0.964 mole, 167.0 g | N(=O)C1=C(C2=CC=CC=C2C=C1)O | C10H7NO2
solvent | hexane | 3.5 liters | CCCCCC | C6H14
product | 2-(chloroformyl)-cis-cinnamonitrile | ClC(=O)C1=C(\C=C/C#N)C=CC=C1 | C10H6ClNO
